US08022062B2
6-Aminomethyl-3-phenyl-benzothiophene:
Dissolve 6-cyano-3-phenylbenzothiophene (0.27 g, 1.16 mmol) in anhydrous THF (6 mL) and add lithium aluminum hydride (3.45 mL, 1M solution in THF) at 0° C. After 2 h, add water (0.86 mL), 2N aqueous NaOH (0.86 mL) and water (1.24 mL). Filter off the solids and evaporate the residue. Purify by prep HPLC (Zorbax SB-Phenyl column 21.2×250 mm, 5% to 50% acetonitrile in 0.1% TFA-water solution) and obtain the free base by SCX chromatography to give the title compound that is used without further purification (187 mg, 68%). MS (ES+) m/z: 223 (M-NH2)+.

reactant | 6-cyano-3-phenylbenzothiophene | 1.16 mmol, 0.27 g | C(#N)C1=CC2=C(C(=CS2)C2=CC=CC=C2)C=C1 | C15H9NS
reactant | lithium aluminum hydride | 1M, 3.45 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.86 mL | O | H2O
reactant | NaOH | 2N, 0.86 mL | [OH-].[Na+]
reactant | water | 1.24 mL | O | H2O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 6-Aminomethyl-3-phenyl-benzothiophene | NCC1=CC2=C(C(=CS2)C2=CC=CC=C2)C=C1 | C15H13NS
